US07101886B2
4-[2-(4-1,2-BENZISOTHIAZOL-3-YL-PIPERAZIN-1-YL)-ETHYL]-2-BROMO-PHENYLAMINE
To a 2 dram vial was added 0.20 g (0.6 mmol) 4-[2-(4-1,2-benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-phenylamine, 6.0 mL CH2Cl2, and 104 mg (0.6 mmol) N-bromosuccinimide. The reaction was stirred for 30 min at rt and then quenched with 1 M Na2SO3. The organic layer was separated, dried, and concentrated in vacuo. The deep red product was purified by MPLC to give 0.059 g (24% yield) of a clear, tacky liquid. MS (APCI): 419 [M+H]+.

reactant | 4-[2-(4-1,2-benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-phenylamine | 0.6 mmol, 0.20 g | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC=C(C=C2)N | C19H22N4S
reactant | N-bromosuccinimide | 0.6 mmol, 104 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CH2Cl2 | 6.0 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-(4-1,2-BENZISOTHIAZOL-3-YL-PIPERAZIN-1-YL)-ETHYL]-2-BROMO-PHENYLAMINE | 24% yield | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC(=C(C=C2)N)Br | C19H21BrN4S
